US04371537
2-(3,4-dichlorophenoxy)-3-(methylsulfonyl)pyridine
Potassium t-butoxide (2.47 g) was dissolved in 30 ml of THF and then 3.46 g of 3,4-dichlorophenol dissolved in THF was added. A solution of 5.00 g of 2,3-bis(methylsulfonyl)pyridine in 20 ml THF/20 ml DMSO was added dropwise. The resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was poured onto ice-water which resulted in the formation of an oil which solidified on standing. The product was collected by filtration and dried in a vacuum oven and 5.33 g of material obtained. Recrystallization from CH2Cl2 /hexane gave purified 2-(3,4-dichlorophenoxy)-3-(methylsulfonyl)pyridine, m.p. 95°-96° C.

reactant | Potassium t-butoxide | 2.47 g | CC(C)([O-])C.[K+]
reactant | 3,4-dichlorophenol | 3.46 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | 2,3-bis(methylsulfonyl)pyridine | 5.00 g | CS(=O)(=O)C1=NC=CC=C1S(=O)(=O)C | C7H9NO4S2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(3,4-dichlorophenoxy)-3-(methylsulfonyl)pyridine | ClC=1C=C(OC2=NC=CC=C2S(=O)(=O)C)C=CC1Cl | C12H9Cl2NO3S
